US05599587
To a solution of aminohexan-6-ol (5.9 g, 0.05 mol) in 1,4-dioxan (150 ml) was added an aqueous solution of sodium hydroxide (1.0M, 90 ml) and water (90 ml). The mixture was stirred at 0° C. when di-tert-butyldicarbonate (11.16 g, 0.05 mmol) was added. The mixture was stirred for two hours while allowing the temperature to return to ambient. The mixture was evaporated under vacuum to remove the organic solvents before it was cooled to 0° C. and the resulting aqueous phase extracted with ethyl acetate. (3×150 ml). The combined organic extracts where dried over anhydrous magnesium sulphate, filtered and evaporated to dryness under reduced pressure. The crude product was chromatographed on silica gel, eluting with methanol. The relevant fractions were combined and evaporated to dryness under reduced pressure to give N-(tert-butoxycarbonyl)aminohexan-6-ol.

reactant | aminohexan-6-ol | 0.05 mol, 5.9 g | NCCCCCCO | C6H15NO
reactant | sodium hydroxide | 1.0M, 90 ml | [OH-].[Na+]
reactant | water | 90 ml | O | H2O
reactant | di-tert-butyldicarbonate | 0.05 mmol, 11.16 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxan | 150 ml | O1CCOCC1 | C4H8O2
product | N-(tert-butoxycarbonyl)aminohexan-6-ol | C(C)(C)(C)OC(=O)NCCCCCCO | C11H23NO3
